US06797726B1
In 50 mL of dimethyl sulfoxide is dissolved 2,3,4,5-tetrafluorobenzoic acid, to which are added 4.6 mL of bromoethane and 8.19 g of potassium carbonate. The mixture is stirred at 70° C. for 2 hours. Then, 18.52 g of potassium carbonate and 15.02 g of tert-butyl ethyl malonate, and the mixture is stirred at 90° C. for 2 hours. Water and toluene are added to the reaction mixture, pH is adjusted to 4 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water, saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is dissolved in 50 mL of toluene and heated under reflux for 3.5 hours together with 0.2 g of p-toluenesulfonic acid monohydrate. Water and ethyl acetate are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water, saturated aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. By distilling off the solvent under reduced pressure, there is obtained 15.2 g of ethyl 4-ethoxycarbonyl-2,3,6-trifluorophenylacetate.

reactant | bromoethane | 4.6 mL | BrCC | C2H5Br
reactant | potassium carbonate | 8.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 18.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl ethyl malonate | 15.02 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | 2,3,4,5-tetrafluorobenzoic acid | FC1=C(C(=O)O)C=C(C(=C1F)F)F | C7H2F4O2
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | ethyl 4-ethoxycarbonyl-2,3,6-trifluorophenylacetate | 15.2 g | C(C)OC(=O)C1=C(C(=C(C(=C1)F)CC(=O)OCC)F)F | C13H13F3O4
